US04056527
Analogously to Example 1, N-(3,4-dichlorophenyl)-bis(chlorocarbonyl)-amine and acetone-S-methyl-isothiosemicarbazone hydroiodide, with addition of triethylamine, yielded 1-(3,4-dichlorophenyl)-3-isopropylideneamino-4-methylmercapto-tetrahydro-1,3,5-triazine-2,6-dione as a colorless powder of melting point 181°-182° C.

reactant | N-(3,4-dichlorophenyl)-bis(chlorocarbonyl)-amine | ClC=1C=C(C=CC1Cl)N(C(=O)Cl)C(=O)Cl | C8H3Cl4NO2
reactant | acetone-S-methyl-isothiosemicarbazone hydroiodide | I.CSC(NN=C(C)C)=N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(3,4-dichlorophenyl)-3-isopropylideneamino-4-methylmercapto-tetrahydro-1,3,5-triazine-2,6-dione | ClC=1C=C(C=CC1Cl)N1C(N(C(NC1=O)SC)N=C(C)C)=O | C13H14Cl2N4O2S
